US07084178B2
(1S,2R)-2-[(4-Chlorobenzenesulfonyl)-(3-chloro-4fluoro-benzyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound was prepared in 43% yield from (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide (75 mg, 0.237 mmol) and 4-bromomethyl-2-chloro-1-fluoro-benzene (56 mg, 0.249 mmol) according to the procedure described for Example 3: 1H NMR (500 Mz, DMSO) δ 7.80 (d, 2 H, J=8.5), 7.63 (d, 2 H, J=8.8), 7.38–7.27 (m, 4 H), 6.67 (br s, 1 H), 4.52 (ABq, 2 H, Δv=92.1, Jab=17.1), 3.87, 2.79 (m, 1 H), 2.44 (m, 1 H), 1.78 (m, 1 H), 1.64 (m, 2 H), 1.42–1.20 (m, 3 H), 0.90 (m, 1 H); MS m/e 481.2 (M+Na)+.

reactant | (1S,2R)-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | 0.237 mmol, 75 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 4-bromomethyl-2-chloro-1-fluoro-benzene | 0.249 mmol, 56 mg | BrCC1=CC(=C(C=C1)F)Cl | C7H5BrClF
product | (1S,2R)-2-[(4-Chlorobenzenesulfonyl)-(3-chloro-4fluoro-benzyl)-amino]-cyclohexanecarboxylic acid amide | 43% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@H](CCCC1)C(=O)N)CC1=CC(=C(C=C1)F)Cl | C20H21Cl2FN2O3S
